US08865704B2
{trans-4-[(5-Chloro-2-nitro-phenylamino)-methyl]-cyclohexyl}-(4-cyclopropanecarbonyl-piperazin-1-yl)-methanone
To a solution of (trans-4-aminomethyl-cyclohexyl)-(4-cyclopropanecarbonyl-piperazin-1-yl)-methanone (600 mg, 2.1 mmol) in DMF (5 mL) K2CO3 (565 mg, 4.1 mmol) and 4-chloro-2-fluoronitrobenzene (360 mg, 2.1 mmol) were added and the mixture was heated at 90° C. for 4 hours. Then the solvent was removed under reduced pressure and the residue was washed with 7 mL of H2O and the precipitate was filtered affording 788 mg of the titled compound (78% yield).

reactant | (trans-4-aminomethyl-cyclohexyl)-(4-cyclopropanecarbonyl-piperazin-1-yl)-methanone | 2.1 mmol, 600 mg | NC[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(=O)C1CC1 | C16H27N3O2
reactant | DMF | 4.1 mmol, 5 mL, 565 mg | CN(C)C=O | C3H7NO
reactant | 4-chloro-2-fluoronitrobenzene | 2.1 mmol, 360 mg | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
product | {trans-4-[(5-Chloro-2-nitro-phenylamino)-methyl]-cyclohexyl}-(4-cyclopropanecarbonyl-piperazin-1-yl)-methanone | 788 mg, 78% yield | ClC=1C=CC(=C(C1)NC[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(=O)C1CC1)[N+](=O)[O-] | C22H29ClN4O4
